Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
gluten
 
Attending: ___
 
Chief Complaint:
Left Nephrolithiasis
 
Major Surgical or Invasive Procedure:
___: Left percutaneous nephrolithotomy

 
History of Present Illness:
Mr. ___ is a ___ male with a
longstanding history of nephrolithiasis who had been having
intermittent flank pain in the last month, which prompted an
ER visit.  A CT scan performed at that time revealed multiple
left lower poll stones and two obstructing stones in the left
ureteropelvic junction, with total stone burden exceeding 2
cm.  At an outpatient visit, after discussing the rational,
risks and benefits of the above-mentioned procedure, he agreed
to proceed.

 
Past Medical History:
Nephrolithiasis
BPH
Gout
Hypercholesterolemia                                             


Venous stasis disease

 
Social History:
___
Family History:
[-] Nephrolithiasis
[-] Malignant Hyperthermia
[-] Renal Cell CA
[-] Testisa CA
[-] Prostate CA
[-] Bladder CA
 
Physical Exam:
Vitals: ___ 0726 Temp: 98.2 PO BP: 117/70 HR: 61 RR: 18 O2
sat: 93% O2 delivery: RA 

Gen: NAD, resting comfortably, AAO
Pulm: nonlabored breathing, normal chest rise, acyanotic
Abd: obese, soft, left flank ureteral catheter exiting skin with
___ drainage and staining of dressing,
minimal/appropriate CVA tenderness
GU: foley in place with clear yellow urine
Ext: WWP

 
Pertinent Results:
BMP: ___: Na: 146 (New reference range as of ___: K: 4.2 (New reference range as of ___: Cl: 111*, ___: CO2: 23, ___: BUN: 16,
___: Creat: 1.0

CBC: ___: WBC: 7.9, ___: HGB: 14.0, ___: HCT: a)
42.4; b) UNABLE TO  (UNABLE TO REPORT), ___: Plt Count: 233

 
Brief Hospital Course:
HOSPITAL COURSE:

___ was admitted to Dr. ___ for 
nephrolithiasis management with a known left nephrolithiasis . 
The patient underwent PERCUTANEOUS RENAL ACCESS, PERCUTANEOUS 
NEPHROLITHOTOMY, ANTEGRADE NEPHROSTOGRAM, LEFT URETERAL CATHETER 
PLACEMENT 

The patient tolerated the procedure well and recovered in the 
PACU before transfer to the general surgical floor. See the 
dictated operative note for full details. Overnight, the patient 
was hydrated with intravenous fluids and received appropriate 
perioperative prophylactic antibiotics. On POD1, catheter and 
externalized catheter was removed and CT scan for residual stone 
burden was obtained. The showed residual punctate nonobstructing 
left renal calculus without hydronephrosis. 

Intravenous fluids, Toradol and Flomax were given to help 
facilitate passage of stones.  At discharge on POD1, patient’s 
pain was controlled with oral pain medications, tolerating 
regular diet, ambulating without assistance, and voiding without 
difficulty.  

Patient was explicitly advised to follow up as directed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Tamsulosin 0.4 mg PO QHS 
4. Levothyroxine Sodium 300 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID constipation 
Hold for loose stool 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*16 Capsule Refills:*0 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*3 Tablet Refills:*0 
4.  Allopurinol ___ mg PO DAILY  
5.  Levothyroxine Sodium 300 mcg PO DAILY  
6.  Pravastatin 40 mg PO QPM  
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left nephrolithiasis

 
Discharge Condition:
GEN: NAD, resting comfortably
AMB: ambulating at baseline
NEURO: no gross neuro deficits, mentating at baseline

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.  You may aslo experience some 
pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___